US05264415
Methyl 4-(4-chlorophenyl)-2-phenyl-2-[(1,2,4-triazol-1-yl)methyl]-butyrate
To a 3 liter flask stirring under nitrogen was charged 276 g (2.0 mole) of potassium carbonate and 1000 mL of methyl ethyl ketone. The mixture was stirred for 10 minutes, then a cloudy solution of 356 g (1.0 moles) of 4-(4-chlorophenyl)-2-phenyl-2-[(1,2,4-triazol-1-yl)-methyl]-butanoic acid in 2000 mL of dimethyl formamide was charged and stirred at room temperature for 30 minutes. To the mixture was added 284 g (2.0 moles) of methyl iodide in 125 mL of methyl ethyl ketone over 1 hour. The reaction was stirred at room temperature for 16 hours after which TLC indicated the reaction was complete. The solvent was removed under vacuum, then the residue was treated with 2000 mL of ethyl acetate and washed with 2×1000 mL of water, dried and concentrated. The residue crystallized on concentration and was washed several times with hexane, filtered and washed with additional hexane and gave 356 g (96% yield) of pale yellow solid, Example 127 of Table 1.

reactant | potassium carbonate | 2.0 mole, 276 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chlorophenyl)-2-phenyl-2-[(1,2,4-triazol-1-yl)-methyl]-butanoic acid | 1.0 moles, 356 g | ClC1=CC=C(C=C1)CCC(C(=O)O)(CN1N=CN=C1)C1=CC=CC=C1 | C19H18ClN3O2
reactant | methyl iodide | 2.0 moles, 284 g | CI | CH3I
solvent | dimethyl formamide | 2000 mL | CN(C=O)C | C3H7NO
solvent | methyl ethyl ketone | 125 mL | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 1000 mL | C(C)C(=O)C | C4H8O
product | Methyl 4-(4-chlorophenyl)-2-phenyl-2-[(1,2,4-triazol-1-yl)methyl]-butyrate | 356 g, 96% yield | ClC1=CC=C(C=C1)CCC(C(=O)OC)(CN1N=CN=C1)C1=CC=CC=C1 | C20H20ClN3O2
